US05753664
2-(4-(4-Bromomethylpiperidylcarbonyl)benzylthio)-3,5-dimethyl-4(3H)-quinazolinone
In dichloromethane (25 ml) was dissolved 2-[4-(4-hydroxymethylpiperidylcarbonyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (1.081 g) followed by addition of carbon tetrabromide (1.050 g). Then, triphenylphosphine (982 mg) was added over 10 minutes and the mixture was stirred at room temperature for 2 hours. The salt was filtered off and the filtrate was concentrated. The residue was purified by silica gel chromatography (hexane-ethyl acetate =1:1) and rinsed with ether to provide the title compound as colorless solid (496 mg).

reactant | 2-[4-(4-hydroxymethylpiperidylcarbonyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 1.081 g | OCC1CCN(CC1)C(=O)C1=CC=C(CSC2=NC3=CC=CC(=C3C(N2C)=O)C)C=C1 | C24H27N3O3S
reactant | carbon tetrabromide | 1.050 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 982 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-(4-(4-Bromomethylpiperidylcarbonyl)benzylthio)-3,5-dimethyl-4(3H)-quinazolinone | 496 mg | BrCC1CCN(CC1)C(=O)C1=CC=C(CSC2=NC3=CC=CC(=C3C(N2C)=O)C)C=C1 | C24H26BrN3O2S
